US07250442B2
3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-pyridin-4-yl-1,3-dihydro-indol-2-one
Combine 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one (0.700 g, 1.16 mmol), pyridine-4-boronic acid (0.286 g, 2.33 mmol), copper (II) acetate (0.211 g, 1.16 mmol), triethylamine (0.33 mL, 2.33 mmol), 4 angstrom molecular sieves, and dichloromethane (15 mL). Stir at room temperature overnight under ambient atmosphere. Filter the reaction through Celite. Elute through a column of silica gel with 10% ethyl acetate in hexanes. Dissolve the resulting compound (0.103 g, 0.152 mmol), in THF (4 mL). Add a solution of tetrabutylammonium fluoride (1.0 M) in THF (0.40 mL). Stir for 1 h. Add saturated aqueous ammonium chloride(10 mL), water (40 mL)m and ethyl acetate (50 mL). Separate the layers and concentrate the organic layer in vacuo. Chromatograph on silica gel eluting with a gradient from 50% to 75% ethyl acetate in hexanes to give 0.109 g (21%) of the title compound: mass spectrum (ion spray): m/z=451(M+1); 1H NMR(DMSO-d6): δ8.46 (dd, 2H), 8.27 (s, 2H), 7.59 (dd, 2H), 7.34 (d, 1H), 7.29 (t, 1H), 7.16 (t, 1H), 7.06(d, 1H), 6.73 (s, 4H), 2.06(s, 12H).

reactant | 3,3-Bis-[4-(tert-butyl-dimethyl-silanyloxy)-3,5-dimethyl-phenyl]-1,3-dihydro-indol-2-one | 1.16 mmol, 0.700 g | C(C)(C)(C)[Si](OC1=C(C=C(C=C1C)C1(C(NC2=CC=CC=C12)=O)C1=CC(=C(C(=C1)C)O[Si](C)(C)C(C)(C)C)C)C)(C)C | C36H51NO3Si2
reactant | pyridine-4-boronic acid | 2.33 mmol, 0.286 g | N1=CC=C(C=C1)B(O)O | C5H6BNO2
reactant | triethylamine | 2.33 mmol, 0.33 mL | C(C)N(CC)CC | C6H15N
reactant | tetrabutylammonium fluoride | 1.0 M | [F-].C(CCC)[N+](CCCC)(CCCC)CCCC
reactant | ammonium chloride | 10 mL | [Cl-].[NH4+]
solvent | THF | 4 mL | C1CCOC1 | C4H8O
solvent | THF | 0.40 mL | C1CCOC1 | C4H8O
catalyst | copper (II) acetate | 1.16 mmol, 0.211 g | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
solvent | ethyl acetate | 50 mL | C(C)(=O)OCC | C4H8O2
solvent | water | 40 mL | O | H2O
solvent | dichloromethane | 15 mL | ClCCl | CH2Cl2
product | 3,3-Bis-(4-hydroxy-3,5-dimethyl-phenyl)-1-pyridin-4-yl-1,3-dihydro-indol-2-one | 0.109 g, 21% | OC1=C(C=C(C=C1C)C1(C(N(C2=CC=CC=C12)C1=CC=NC=C1)=O)C1=CC(=C(C(=C1)C)O)C)C | C29H26N2O3
